US04775671
8.60 g (28.5 mmol) of (S)-7-fluoro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid, 30 ml of N,N-dimethylformamide and 6.16 g (38 mmol) of N,N'-carbonyldiimidazole are stirred at room temperature for 45 minutes and at 55° for 1 hour. 2.44 g (33 mmol) of acetamidoxime are subsequently added and the mixture is stirred at 75° for a further 1.5 hours. The mixture is poured into 200 ml of water, stirred for 20 minutes, suction filtered and the filter residue is dried. 8.60 g of the thus-obtained product are stirred at 115° for 2.5 hours in 50 ml of glacial acetic acid. The solution is evaporated and the residue is partitioned between methylene chloride and saturated sodium bicarbonate solution. The organic phase is separated, dried over magnesium sulphate and evaporated. By recrystallization of the residue from ethyl acetate there is obtained (S)-7-fluoro-11,12,13,13a-tetrahydro-1-(3-methyl-1,2,4-oxadiazol-5-yl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 248°-249°.

reactant | (S)-7-fluoro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid | 28.5 mmol, 8.60 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)O)CCC3)=O)C1 | C15H12FN3O3
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | acetamidoxime | 33 mmol, 2.44 g | C(C)(N)=NO | C2H6N2O
solvent | water | 200 ml | O | H2O
product | (S)-7-fluoro-11,12,13,13a-tetrahydro-1-(3-methyl-1,2,4-oxadiazol-5-yl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C4=NC(=NO4)C)CCC3)=O)C1 | C17H14FN5O2
